US08530648B2
a) 1-tosyl-1H-indole-3-carbaldehyde
To a solution of indole-3-carbaldehyde (4.0 g, 27.586 mmol) in 1,2-dimethoxyethane (40 mL) KOH (4.63 g, 82.758 mmol) was added at rt and stirred for 10 min. p-toluene sulfonyl chloride (5.785 g, 30.345 mmol) was added to the solution at rt and stirred for 18 h.

reactant | indole-3-carbaldehyde | 27.586 mmol, 4.0 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | 1,2-dimethoxyethane | 82.758 mmol, 40 mL, 4.63 g | COCCOC | C4H10O2
reactant | p-toluene sulfonyl chloride | 30.345 mmol, 5.785 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 1-tosyl-1H-indole-3-carbaldehyde | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=C(C2=CC=CC=C12)C=O | C16H13NO3S
